US07897597B2
Under a nitrogen atmosphere, trimethyl orthovalerate (2.7 mL, 16 mmol) was added dropwise to a solution of 7-benzyloxy-N4-(2-phenoxyethyl)quinoline-3,4-diamine (3.0 g, 7.8 mmol), prepared as described in Parts A and B of Example 46, in xylenes (30 mL), and the reaction was heated at reflux for 24 hours. The reaction mixture was allowed to cool to ambient temperature; a precipitate formed, which was isolated by filtration, washed with hexanes, and dried for two hours in a vacuum oven to provide 2.96 g of 7-benzyloxy-2-butyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinoline.

reactant | trimethyl orthovalerate | 16 mmol, 2.7 mL | C(CCCC)(OC)(OC)OC | C8H18O3
reactant | 7-benzyloxy-N4-(2-phenoxyethyl)quinoline-3,4-diamine | 7.8 mmol, 3.0 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)N)NCCOC1=CC=CC=C1 | C24H23N3O2
product | 7-benzyloxy-2-butyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinoline | 2.96 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCOC3=CC=CC=C3)CCCC | C29H29N3O2
